US04863920
2.55 g (10 mmol) of 3-ethynyl-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was suspended in 20 ml of tetrahydrofuran and treated dropwise within 30 minutes at -5° with 13 ml (20 mmol) of 1.6M butyllithium in hexane. After stirring in an ice-bath for 2 hours the mixture was cooled to -70° and 3.4 ml of hexamethylphosphoric acid triamide and 1.68 g (20 mmol) of cyclopropyl methyl ketone were added thereto in succession. The mixture was left to come to room temperature within 4 hours, stirred overnight and poured into about 200 ml of water. After acidification with 4N hydrochloric acid the mixture was extracted five times with ethyl acetate, the combined extracts were dried over magnesium sulphate and evaporated. The residue was chromatographed on silica gel while eluting with ethyl acetate and after crystallization from ethyl acetate there was obtained 8-fluoro-3-(3-cyclopropyl-3-hydroxy-1-butynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-one of melting point 191°-192°.

reactant | 3-ethynyl-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 2.55 g | C(#C)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C14H10FN3O
reactant | butyllithium | 20 mmol, 1.6M, 13 ml | C(CCC)[Li]
reactant | hexamethylphosphoric acid triamide | 3.4 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | cyclopropyl methyl ketone | 20 mmol, 1.68 g | CC(=O)C1CC1 | C5H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | about 200 ml | O | H2O
product | 8-fluoro-3-(3-cyclopropyl-3-hydroxy-1-butynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-one | FC=1C=CC2=C(CN(CC=3N2C(NC3C#CC(C)(O)C3CC3)=O)C)C1 | C19H20FN3O2
